US04065456
To 100 ml of ethanol in which 2,5 g of sodium metal had been dissolved was added 15 g of 8-hydroxyquinoline. 12 g of epichlorohydrin was then added to the resulting solution and the mixture was refluxed for 8 hours while stirring. After completion of the reaction, the precipitated material was removed by filtration, and the mother liquor was concentrated to dryness. The resulting residue was recrystallized from ethanol-water to give 16 g of 8-(2,3-dihydroxy)propoxyquinoline as colorless needle-like crystals having a melting point of 193° - 194° C.

reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 8-hydroxyquinoline | 15 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | epichlorohydrin | 12 g | C(Cl)C1CO1 | C3H5ClO
solvent | sodium | 2,5 g | [Na] | Na
product | 8-(2,3-dihydroxy)propoxyquinoline | 16 g | OC(COC=1C=CC=C2C=CC=NC12)CO | C12H13NO3
